US09168259B2
To a solution of 20.0 g, (126.4 mmol) ethyl 4-methyl-3-oxopentanoate in methanol (100 ml) was added 48.72 g, (632.2 mmol) ammonium acetate. The reaction mixture was stirred at RT for 3 d. Then the mixture was concentrated in vacuo. The residue was taken up with DCM (300 ml) and filtered. The filtrate is water and brine, dried over Na2SO4 and concentrated in vacuo. This residue was dissolved in toluene (100 ml), followed by the addition of HCl (saturated solution in dioxane, 65 ml) at 0° C. The reaction mixture was heated at 120° C. for 20 h and subsequently filtered and the solid is washed with toluene. The filtrate was concentrated in vacuo. Purification of the residue by CC (hexane/EtOAc 3:2) provided 2.2 g (8.76 mmol, 7%) 2,4-diisopropyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethylester.

reactant | ethyl 4-methyl-3-oxopentanoate | 126.4 mmol | CC(C(CC(=O)OCC)=O)C | C8H14O3
reactant | ammonium acetate | 632.2 mmol | C(C)(=O)[O-].[NH4+]
solvent | methanol | 100 ml | CO | CH4O
product | 2,4-diisopropyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethylester | 8.76 mmol, 2.2 g, 7% | C(C)OC(=O)C1=C(NC(C=C1C(C)C)=O)C(C)C | C14H21NO3
